US09056874B2
5-Cyclopropyl-7-methyl-1-tosyl-1H-indole-4-carbaldehyde
The title compound was synthesized starting from 5-chloro-7-methyl-4-(((tetrahydro-2H-pyran-2-yl)oxy)methyl)-1-tosyl-1H-indole as described in Example 48-A to 48-C using potassium cyclopropyltrifluoroborate in place of potassium ethylrifluoroborate in Example 48-A. MS (ESI+) m/z 354.2 (M+H).

reactant | 5-chloro-7-methyl-4-(((tetrahydro-2H-pyran-2-yl)oxy)methyl)-1-tosyl-1H-indole | ClC=1C(=C2C=CN(C2=C(C1)C)S(=O)(=O)C1=CC=C(C)C=C1)COC1OCCCC1 | C22H24ClNO4S
reactant | potassium cyclopropyltrifluoroborate | C1(CC1)[B-](F)(F)F.[K+]
product | 5-Cyclopropyl-7-methyl-1-tosyl-1H-indole-4-carbaldehyde | C1(CC1)C1=C(C=2C=CN(C2C(=C1)C)S(=O)(=O)C1=CC=C(C)C=C1)C=O | C20H19NO3S
